US04496572
A solution of 7-bromo-2-dimethylaminomethyl-1-tetralone free base (6.0 g) and imidazole (2.5 g) in xylene (30 ml) was heated under reflux for 1.5 hours and then evaporated. The residue was dissolved in ether and the solution was washed with water followed by dilute hydrochloric acid. The acid extract was made just alkaline with dilute sodium hydroxide solution. The mixture was extracted with chloroform and the combined chloroform extracts were washed with water and dried (Na2SO4). Evaporation of the solvent gave a solid which was crystallised from ethyl acetate to give 7-bromo-2-(1-imidazolylmethyl)-1-tetralone, m.p. 129°-131°.

reactant | 7-bromo-2-dimethylaminomethyl-1-tetralone | 6.0 g | BrC1=CC=C2CCC(C(C2=C1)=O)CN(C)C | C13H16BrNO
reactant | imidazole | 2.5 g | N1C=NC=C1 | C3H4N2
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7-bromo-2-(1-imidazolylmethyl)-1-tetralone | BrC1=CC=C2CCC(C(C2=C1)=O)CC=1NC=CN1 | C14H13BrN2O
